US07429565B2
(2-{Acetyl-[4-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-2-methyl-but-2-enyl]-amino}-ethyl)-phosphonic acid
To a solution of [2-(acetyl-{4-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-2-methyl-but-2-enyl}-amino)-ethyl]-phosphonic acid diethyl ester (14 mg, 0.024 mmol) in acetonitrile (0.5 mL) was added TMSBr (31 μL, 0.24 mmol) and 2,6-lutidine (28 μL, 0.24 mmol). The solution was stirred at room temperature for 1 hour. The reaction was quenched by addition of methanol and aqueous 1N HCl. The product was extracted with EtOAc. The combined organic extracts were dried over Na2SO4 and concentrated in vacuo. The product was purified by RP HPLC using a C18 column with a gradient of H2O, 0.1% TFA-acetonitrile, 0.1% TFA to provide 5.4 mg of the product (53%) as a white solid. The NMR data of this compound shows two rotamers. 1H NMR (300 MHz, CDCl3) δ 1.67 and 1.73 (s, 3H), 1.85-2.12 (m, 5H), 2.13 (s, 3H), 3.30-3.61 (m, 4H), 3.75 (s, 3H), 3.76 (br s, 2H), 5.17 (s, 2H), 5.31 (br s, 1H) ppm; 31P (121.4 MHz, CDCl3) δ 27.5 and 28.8 ppm; MS (m/z) 428.2 [M+H]+, 450.2 [M+Na]+.

reactant | [2-(acetyl-{4-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-2-methyl-but-2-enyl}-amino)-ethyl]-phosphonic acid diethyl ester | 0.024 mmol, 14 mg | C(C)OP(OCC)(=O)CCN(CC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)OCC[Si](C)(C)C)C)C(C)=O | C28H46NO8PSi
reactant | TMSBr | 0.24 mmol, 31 μL | C[Si](C)(C)Br | C3H9BrSi
reactant | 2,6-lutidine | 0.24 mmol, 28 μL | N1=C(C=CC=C1C)C | C7H9N
solvent | acetonitrile | 0.5 mL | C(C)#N | C2H3N
product | (2-{Acetyl-[4-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-2-methyl-but-2-enyl]-amino}-ethyl)-phosphonic acid | 5.4 mg, 53% | C(C)(=O)N(CCP(O)(O)=O)CC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)O)C | C19H26NO8P
